US07994202B2
Ethyl 2-(6-amino-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate
10% Palladium-carbon (18 mg, manufactured by Merck Chemicals, Ltd.) was added to a solution of ethyl 2-(6-nitro-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate (234 mg), which had been synthesized from the compound of Reference Example 24 according to the method of Example 3, in methanol (20 mL manufactured by Wako Pure Chemical Industries, Ltd.) at room temperature, and the mixture was stirred overnight in a hydrogen atmosphere. After completion of the reaction, the 10% palladium-carbon was removed by filtration, and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:4), to give 39.1 mg of the title compound. LC-MS: HPLC retention time 1.95 minutes, m/z 365 (M+H), condition C-1.

reactant | ethyl 2-(6-nitro-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate | 234 mg | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)C=1SC=C(N1)C(=O)OCC)C1=CC=CC=C1 | C19H14N4O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium-carbon | 18 mg | [C].[Pd]
product | Ethyl 2-(6-amino-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate | 39.1 mg | NC1=CC=C2C(=NN(C2=C1)C=1SC=C(N1)C(=O)OCC)C1=CC=CC=C1 | C19H16N4O2S
